data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2047,2272,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:26]([CH3:27])([C:28]([CH3:29])=[O:30])[N:24]([CH3:25])[C:19]3([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,26.598591234402026,-36.712905146942376
3900,4461,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[O:16][NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:17](=[O:18])[O:19][CH3:20],water,298.15,26.914190847176428,-0.4830027127122884
34,38,[CH3:10][C:11]([CH3:12])=[O+:13][NH-:14].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[NH:14][O:13][C:11]2([CH3:10])[CH3:12],water,298.15,12.396244470703609,-55.21458727227736
124,140,[CH3:12][C:13](=[O:14])[CH:15]=[NH+:16][O-:17].[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[O:17][NH:16][CH:15]1[C:13]([CH3:12])=[O:14],water,298.15,30.07597272793673,-0.8396972102565744
2644,2931,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11](=[O:12])[O:13][CH3:14])([C:15](=[O:16])[O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[C:27]([CH3:28])=[NH+:29][N-:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11](=[O:12])[O:13][CH3:14])([C:15](=[O:16])[O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([NH:24][CH3:23])=[O:26])([CH3:28])[NH:29][N:30]2[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,22.20895713338332,-36.068534620846
1709,1891,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2.[N:15]#[C:16][C:17]([C:18]#[N:19])=[O+:20][C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:20][C:17]2([C:16]#[N:15])[C:18]#[N:19],water,298.15,16.500244680886684,-17.85896107626952
695,755,[CH3:15][NH:16][C:17](=[O:18])[C:19]([CH3:20])=[O+:21][O-:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([CH3:20])[O:21][O:22]2,water,298.15,17.185186975824152,-24.17464505494121
1152,1251,[CH3:17][O:18][C:19](=[O:20])[CH-:21][O+:22]=[C:23]([CH3:24])[C:25]#[N:26].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:21]([C:19]([O:18][CH3:17])=[O:20])[O:22][C:23]2([CH3:24])[C:25]#[N:26],water,298.15,8.379559296603476,-78.46176469402248
3752,4290,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][N+:17]#[C:18][C:19]#[N:20]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:16]([CH3:15])[N:17]=[C:18]2[C:19]#[N:20],water,298.15,8.981639707606654,-35.367419346416874
1321,1450,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[C:21]3([C:22]#[N:23])[C:24]#[N:25],water,298.15,23.45403031530725,-32.37278454115497
1582,1751,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:22]([C:23]([CH3:24])=[O:25])=[N:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:26]([CH3:27])=[O:28],water,298.15,17.354551620598098,-20.41507346393032
2894,3216,[CH2-:3][N+:4]#[C:5][CH3:6].[CH2:1]=[CH2:2]>>[CH2:1]1[CH2:2][CH2:3][N:4]=[C:5]1[CH3:6],water,298.15,12.07435621426886,-60.86825114359628
